US04374962
Into a reactor equipped with a thermometer, an agitator, a reflux cooler and a dropping funnel were charged 108 parts of m-cresol, 108 parts of water and 1.1 parts of potassium hydroxide, and 142 parts of 37% aqueous formaldehyde solution was added dropwise to the mixture in 2 hours while agitating the resulting mixture at 60° C. After completion of the addition of the formaldehyde solution, an agitation was further continued for 3 hours at 60° C., and then the mass was cooled to obtain a homogeneous transparent resol type precondensate of m-cresol. Into another reactor having the same equipments as described above were charged 248 parts of 5-methylresorcin, 290 parts of water and 2.5 parts of oxalic acid. Then, the above obtained m-cresol-formaldehyde reaction liquid was added dropwise to the 5-methylresorcin solution in 2 hours while agitating the resulting mixture at 60° C. After completion of the addition, the resulting mixture was further agitated at 60° C. for 3 hours, and then water in the reaction liquid was removed. The residue was poured into a distillation vessel, and unreacted m-cresol and 5-methylresorcin were removed by a distillation under reduced pressure to obtain a m-cresol/5-methylresorcin/formaldehyde cocondensate.

reactant | 5-methylresorcin | CC=1C=C(C=C(O)C1)O | C7H8O2
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | m-cresol-formaldehyde | C=1(C(=CC=CC1O)C)C=O | C8H8O2
solvent | water | O | H2O
product | m-cresol 5-methylresorcin formaldehyde | C1=C(C=CC=C1O)C.CC=1C=C(C=C(O)C1)O.C=O | InChI=1S/C7H8O2.C7H8O.CH2O/c1-5-2-6(8)4-7(9)3-5;1-6-3-2-4-7(8)5-6;1-2/h2-4,8-9H,1H3;2-5,8H,1H3;1H2
